US04824848
3-Methylamino-7-phenethyl-5-propylpyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione
A solution of 6-hydrazino-1-phenethyl-3-propyluracil (1.5 g, 5.2 mM) and methyl isothiocyanate (1.1 ml, 16 mM) in DMF (15 ml) was stirred at 60° C. for 2 hours and then at 120° C. for 15 hours. To the solution was added 50% methanol (10 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/methanol afforded colorless crystals (0.7 g, 41%), m.p. 256°-258° C.

reactant | 6-hydrazino-1-phenethyl-3-propyluracil | 5.2 mM, 1.5 g | N(N)C1=CC(N(C(N1CCC1=CC=CC=C1)=O)CCC)=O | C15H20N4O2
reactant | methyl isothiocyanate | 16 mM, 1.1 ml | CN=C=S | C2H3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-Methylamino-7-phenethyl-5-propylpyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione | CNC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CCC2=CC=CC=C2 | C17H21N5O2
